US09079902B2
A 50-mL round-bottom flask was charged with 5-(2-bromo-5-chlorophenyl)-1-methyl-1H-pyrazole (992.0 mg, 3.65 mmol), diethyl ether (18 mL), and triisopropyl borate (1 mL, 4.38 mmol). The flask was cooled in a dry ice-acetone bath for 10 min, then n-BuLi (1.91 mL, 4.38 mmol) was added dropwise over a couple of minutes. Following the addition, the cooling bath was removed, and the mixture was warmed to room temperature. An aq. 2N NaOH solution (20 mL, 40 mmol) was added, and the resulting mixture was stirred vigorously for 2 h. The mixture was diluted with water and diethyl ether. The layers were separated, and the ethereal layer was extracted with water (2×). The aq. layers were combined, and the combined aq. mixture as washed with diethyl ether. The etheral layer was back-extracted once more, and the aq. layers were all combined. The combined aq. solution was acidified to about pH 1 with 3N aq. HCl to give a clear solution. The aq. solution was extracted with EtOAc (3×), and the combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was taken up in DCM and concentrated in vacuo to give (4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenyl)boronic acid (660 mg, 2.79 mmol, 76% yield) as a light-yellow foam. m/z (ESI) 237.0 (M+H)+.

reactant | 5-(2-bromo-5-chlorophenyl)-1-methyl-1H-pyrazole | 3.65 mmol, 992.0 mg | BrC1=C(C=C(C=C1)Cl)C1=CC=NN1C | C10H8BrClN2
reactant | triisopropyl borate | 4.38 mmol, 1 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | 4.38 mmol, 1.91 mL | [Li]CCCC
reactant | NaOH | 40 mmol, 2N, 20 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 18 mL | C(C)OCC | C4H10O
product | (4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenyl)boronic acid | 2.79 mmol, 660 mg, 76% yield | ClC1=CC(=C(C=C1)B(O)O)C1=CC=NN1C | C10H10BClN2O2
